US05656626
8-Chloro-3-hydroxy-4-phenyl-1H-benzo(b)azepine-2,5-dione
To a solution of 4-Bromo-8-chloro-3-hydroxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (400 mg) in THF (10 mL) was added phenyltrimethylstannane (600 mg) and trans-Benzyl(chloro)bis (triphenyl-phosphinepalladium(II) (50 mg). The solution was heated to reflux for 5 hours at which time a dark gray precipitate formed. The reaction mixture was cooled to room temperature and diluted with an ether-tetrahydrofuran mixture (1:1). This mixture was washed with a 10% solution of potassium fluoride, dried (Na2SO4), and evaporated to dryness. Chromatography, with ethyl acetate as the eluent, yielded the title compound as a white solid (230 mg); mp 193-196 degrees C.; NMR: 7.18(m,2H), 7.31(m, 4H), 7.52(s, 1H), 7.87(d, 1H, J=8.7), 10.28(brs, 1H), 11.81(s, 1H). Analysis for C16H10ClNO3 -0.3H2O: Calculated: C, 62.98, H, 3.50, N, 4.59: Found: C, 62.82, H, 3.33, N, 4.67.

reactant | 4-Bromo-8-chloro-3-hydroxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 400 mg | BrC=1C(C2=C(NC(C1O)=O)C=C(C=C2)Cl)=O | C10H5BrClNO3
reactant | phenyltrimethylstannane | 600 mg | C1(=CC=CC=C1)[Sn](C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-Chloro-3-hydroxy-4-phenyl-1H-benzo(b)azepine-2,5-dione | 230 mg | ClC=1C=CC2=C(NC(C(=C(C2=O)C2=CC=CC=C2)O)=O)C1 | C16H10ClNO3
